US06992100B2
10. Preparation of (5-Benzyl-1-carbamoyl-7,8,9,10-tetrahydro-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester
40% Methanolic Triton B (0.148 mL, 0.325 mM) was added to a solution of 5-benzyl-11-hydroxy-7,8,9,10-tetrahydro-5H-benzo[b]carbazole-1-carboxylic acid amide, (0.094 g, 0.25 mM) in 5 mL DMF at room temperature. After 2 minutes, methyl bromoacetate (0.049 mL, 0.076 g, 0.5 mM) was added and the resultant mixture stirred at room temperature for 2 h. Cesium carbonate (0.041 g, 0.125 mM) was then added as a solid, and the mixture allowed to stir at room temperature for an additional 2 h. The mixture was diluted with ethyl acetate, washed with H2O, 1N HCl, saturated aqueous NaHCO3 solution, and saturated brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting tan foam was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 0.035 g (31%) of the title compound (5-benzyl-1-carbamoyl-7,8,9,10-tetrahydro-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester as a white solid (MP 174–177° C., MW 442.52).

reactant | 5-benzyl-11-hydroxy-7,8,9,10-tetrahydro-5H-benzo[b]carbazole-1-carboxylic acid amide | 0.25 mM, 0.094 g | C(C1=CC=CC=C1)N1C=2C=CC=C(C2C=2C(=C3C(=CC12)CCCC3)O)C(=O)N | C24H22N2O2
reactant | methyl bromoacetate | 0.5 mM, 0.049 mL, 0.076 g | BrCC(=O)OC | C3H5BrO2
reactant | Cesium carbonate | 0.125 mM, 0.041 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Benzyl-1-carbamoyl-7,8,9,10-tetrahydro-5H-benzo[b]carbazol-11-yloxy)-acetic acid, methyl ester | 0.035 g, 31% | C(C1=CC=CC=C1)N1C2=CC=CC(=C2C=2C(=C3C(=CC12)CCCC3)OCC(=O)OC)C(N)=O | C27H26N2O4
